US07914589B2
2-(3,3,4,4,5,5,6,6,6-nonafluorohexylthio)ethanol (50.0 g, 154 mmol) prepared in Synthetic Example 3 was dissolved in methylene chloride (850 ml), and m-chloroperbenzoic acid (m-CPBA) (58.6 g, 340 mmol) was added at 0° C. for 15 minutes with stirring in nitrogen atmosphere. The mixture was stirred at room temperature for one night and then methylene chloride (300 ml) was added to the reaction mixture. The reaction mixture was injected into a mixture of an aqueous saturated sodium thiosulfate pentahydrate solution (100 g) and water (100 ml). An organic layer was removed and an aqueous layer was extracted with methylene chloride (50 ml). Organic layers were joined, washed with a saturated sodium hydrogen carbonate solution (200 ml) and with a saturated saline solution (150 ml), and then dried over magnesium sulfate. A filtrate after filtration was concentrated at reduced pressure. A residue was subjected to a silica gel column chromatography (hexane/ethyl acetate (1/1→1/2)), and fractions having Rf value of 0.41 [Rf value (Thin Layer Chromatography (TLC))=(Migration distance of sample)/(Migration distance of eluting solvent)] were gathered and concentrated at reduced pressure and dried at vacuum to give crystalline 2-(3,3,4,4,5,5,6,6,6-nonafluorohexylsulfonyl)ethanol (35.8 g). Yield: 65.2%.

reactant | 2-(3,3,4,4,5,5,6,6,6-nonafluorohexylthio)ethanol | 154 mmol, 50.0 g | FC(CCSCCO)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H9F9OS
reactant | m-chloroperbenzoic acid | 340 mmol, 58.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate pentahydrate | 100 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 850 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,3,4,4,5,5,6,6,6-nonafluorohexylsulfonyl)ethanol | 35.8 g, Yield: 65.2% | FC(CCS(=O)(=O)CCO)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H9F9O3S
